US03975384
6-Methyl-4-morpholino-5-nitro-2-piperazino-pyrimidine
A solution of 2.6 gm (0.01 mol) of 2-chloro-6-methyl-4-morpholino-5-nitro-pyrimidine (m.p. 127°-129°C, prepared from 2,4-dichloro-6-methyl-5-nitro-pyrimidine and morpholine) in 100 ml of acetone/dioxane (1:1) was added dropwise, while stirring and cooling, to a solution of 19.4 gm (0.1 mol) of piperazine hexahydrate in 300 ml of acetone/dioxane (1:1) at about 5°C. After about 1 hour the solvents were distilled off in vacuo, and the residue was taken up in about 100 ml of water. The insoluble reaction product was suction-filtered off, washed with water and dried. Yield: 3.0 gm (97% of theory). After one reprecipitation from about 0.2 N hydrochloric acid with 2 N ammonia, the reaction product of the formula ##SPC5##

reactant | 2-chloro-6-methyl-4-morpholino-5-nitro-pyrimidine | 0.01 mol, 2.6 gm | ClC1=NC(=C(C(=N1)N1CCOCC1)[N+](=O)[O-])C | C9H11ClN4O3
reactant | piperazine hexahydrate | 0.1 mol, 19.4 gm | O.O.O.O.O.O.N1CCNCC1
solvent | acetone dioxane | 100 ml | CC(=O)C.O1CCOCC1
solvent | acetone dioxane | 300 ml | CC(=O)C.O1CCOCC1
product | 6-Methyl-4-morpholino-5-nitro-2-piperazino-pyrimidine | CC1=C(C(=NC(=N1)N1CCNCC1)N1CCOCC1)[N+](=O)[O-] | C13H20N6O3
